US05070095
N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-4-[[(dimethylamino)methylene]amino]-2-hydroxybenzamide
Following the procedure of Example 1, the title compound is prepared from 4-amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-2-hydroxybenzamide and N,N-dimethylformamide dimethylacetal.

reactant | 4-amino-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-2-hydroxybenzamide | NC1=CC(=C(C(=O)NC2CN3CCC2CC3)C=C1Cl)O | C14H18ClN3O2
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | N-(1-azabicyclo[2.2.2]oct-3-yl)-5-chloro-4-[[(dimethylamino)methylene]amino]-2-hydroxybenzamide | N12CC(C(CC1)CC2)NC(C2=C(C=C(C(=C2)Cl)N=CN(C)C)O)=O | C17H23ClN4O2
